US07939527B2
Intermediate 36: 4-[(1S,4S)-2,5-Diazabicyclo[2.2.1]hept-2-ylmethyl]phenol Dihydrochloride
To a solution of tert-butyl (1S,4S)-5-(4-hydroxybenzyl)-2,5-diazabicyclo[2.2.1]heptane-2-carboxylate (3.47 g, 0.0114 mol, 1 equiv.) in CH2Cl2 (42 mL) was added HCl (4 M in dioxane, 22.5 mL, 0.114 mol, 10 equiv.). The solution was stirred at rt for 12 h. The mixture was then concentrated, affording a white solid (100%). 1H NMR (500 MHz, DMSO-d6): 11.60-11.28 (m, 1H), 10.38-9.95 (m, 1H), 9.93-9.56 (m, 2H), 7.49 (s, 2H), 6.81 (s, 2H), 4.39 (m, 4H), 3.88 (s, 1H), 3.67 (s, 1H), 2.72-2.52 (m, 0.5H), 2.45-2.30 (m, 0.5H), 2.08 (s, 1H). MS (ESI): mass calcd. for C12H16N2O, 204.27; m/z found, 205.1 [M+H]+.

reactant | tert-butyl (1S,4S)-5-(4-hydroxybenzyl)-2,5-diazabicyclo[2.2.1]heptane-2-carboxylate | 0.0114 mol, 3.47 g, 1 equiv. | OC1=CC=C(CN2[C@@H]3CN([C@H](C2)C3)C(=O)OC(C)(C)C)C=C1 | C17H24N2O3
reactant | HCl | 0.114 mol, 4 M, 22.5 mL, 10 equiv. | Cl | ClH
solvent | CH2Cl2 | 42 mL | C(Cl)Cl | CH2Cl2
product | 4-[(1S,4S)-2,5-Diazabicyclo[2.2.1]hept-2-ylmethyl]phenol Dihydrochloride | 100% | Cl.Cl.[C@@H]12N(C[C@@H](NC1)C2)CC2=CC=C(C=C2)O | InChI=1S/C12H16N2O.2ClH/c15-12-3-1-9(2-4-12)7-14-8-10-5-11(14)6-13-10;;/h1-4,10-11,13,15H,5-8H2;2*1H/t10-,11-;;/m0../s1
